US07951803B2
A solution of 46 mg (0.1 mmol, 1.0 eq.) of 9-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-8-(pyridin-4-yl)-9H-purin-2-amine (I-17) in 0.6 mL of methylene chloride and 2.4 mL of TFA was stirred at room temperature for 4 h. A portion of 1 mL of Et3SiH was added and the resulting reaction mixture stirred at room temperature for an additional 1 h. The volatiles were removed in vacuo and the residue purified by semi-preparative HPLC to provide 7.3 mg (24%) of N-(4-fluorophenyl)-8-(pyridin-4-yl)-9H-purin-2-amine (I-18).

reactant | 9-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-8-(pyridin-4-yl)-9H-purin-2-amine | 0.1 mmol, 46 mg, 1.0 eq. | COC1=C(CN2C3=NC(=NC=C3N=C2C2=CC=NC=C2)NC2=CC=C(C=C2)F)C=CC(=C1)OC | C25H21FN6O2
reactant | Et3SiH | 1 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | methylene chloride | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-fluorophenyl)-8-(pyridin-4-yl)-9H-purin-2-amine | 7.3 mg, 24% | FC1=CC=C(C=C1)NC1=NC=C2N=C(NC2=N1)C1=CC=NC=C1 | C16H11FN6
